US07420055B2
Synthesis of 4-(4-Methyl-tetrahydro-pyran-4-yl)-benzenesulfonyl Chloride
To a magnetically stirred mixture of 4-methyl-4-phenyl-tetrahydro-pyran (1.10 g, 6.24 mmol) in dry methylene chloride (50 mL) cooled in an ice bath was added 2.07 mL of chlorosulfonic acid (3.64 g, 31.2 mmol) dropwise under dry nitrogen. The reaction was stirred overnight at room temperature; the reaction was added to ice and the product was extracted with methylene chloride (3×100 mL). The organic layer was washed with saturated brine, dried (MgSO4), filtered and concentrated. e product was chromatographed on silica gel using ethyl acetate-hexane mixtures (2-20% hexane). Removal of solvent provided pure product as a colorless syrup which crystallized on standing: 1H NMR (CDCl3) δ 7.99 (d, 2H, J=8.8 Hz), 7.56 (d, 2H, J=8.8 Hz), 3.79 (ddd, 1H, J=11.7 Hz, J=8.4 Hz, J=3.3 Hz), 3.70 (ddd, 1H, J=11.7 Hz, J=6.0 Hz, J=3.8 Hz), 2.11 (ddd, 1H, J=13.8 Hz, J=8.4 Hz, J=3.8 Hz), 1.81 (dm, 1H, J=13.8 Hz), 1.35 (s, 3H). MS: m/z 275 (M++1).

reactant | 4-methyl-4-phenyl-tetrahydro-pyran | 6.24 mmol, 1.10 g | CC1(CCOCC1)C1=CC=CC=C1 | C12H16O
reactant | chlorosulfonic acid | 31.2 mmol, 2.07 mL, 3.64 g | ClS(=O)(=O)O | ClHO3S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Methyl-tetrahydro-pyran-4-yl)-benzenesulfonyl Chloride | CC1(CCOCC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H15ClO3S
